US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-n-butylbenzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 with 4-bromo-3-methyl-5-aminoisoxazole (1.0 mmoles, 0.177 g), NaH (2.5 mmoles, 100 mg), 2-n-butylbenzo[b]thiophene-3-sulfonyl chloride (1.2 mmoles, 0.35 g) and THF (6 ml). Recrystallization from ethyl acetate and hexanes provided 0.24 g (56%) of a yellow solid, m.p. 124.5°-126° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 1.0 mmoles, 0.177 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 2.5 mmoles, 100 mg | [H-].[Na+]
reactant | 2-n-butylbenzo[b]thiophene-3-sulfonyl chloride | 1.2 mmoles, 0.35 g | C(CCC)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C12H13ClO2S2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-n-butylbenzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CCCC)C=CC=C2)C | C16H17BrN2O3S2
